US04728458
Four point five grams of 3-chloro-4-hydroxybenzoic acid were dispersed in a mixed solvent of 30 ml of carbon tetrachloride and 5 ml of pyridine and then heated. 3.7 g of nonanic acid chloride was dropped into the mixture with refluxing. After heating 3 hours the solvent was removed from the mixture. After decomposing unreacted nonanic acid chloride by adding a small amount of water, the residue was washed with methanol to obtain 3-chloro-4-octylcarbonyloxybenzoic acid (AE). After dispersing the compound (AE) into 20 ml of carbon tetrachloride, (AE) was reacted with 5 ml of thionyl chloride with refluxing for 3 hours. 6.5 g of 3-chloro-4-octylcarbonyloxybenzoic acid chloride (AF) was obtained after removing solvent.

reactant | 3-chloro-4-hydroxybenzoic acid | five grams | ClC=1C=C(C(=O)O)C=CC1O | C7H5ClO3
reactant | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | nonanic acid chloride | 3.7 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-chloro-4-octylcarbonyloxybenzoic acid | ClC=1C=C(C(=O)O)C=CC1OC(=O)CCCCCCCC | C16H21ClO4
